US05587386
8-tert-butoxycarbonylamino-6-azaspiro[3.4]octane:
To a solution of 4.1 g of 8-tert-butoxycarbonylamino-6-[1-(R)-phenylethyl]-6-azaspiro[3.4]octane in 60 ml of ethanol there was added 4.5 g of 5% palladium on charcoal (50% wet) and reduction was carried out under a hydrogen atmosphere (H2 pressure: 4 atm.) for 5 hrs. During the reduction, the reaction vessel was warmed by irradiation with a tungsten lamp. At 1 hr. from the beginning of the reduction, 2 g of the same catalyst was further added and the reduction continued for an additional 4 hours at the same condition to total 5 hours. The catalyst was removed by filtration and the solvent was removed under reduced pressure to yield 2.88 g of the titled compound.

reactant | 8-tert-butoxycarbonylamino-6-[1-(R)-phenylethyl]-6-azaspiro[3.4]octane | 4.1 g | C(C)(C)(C)OC(=O)NC1CN(CC12CCC2)[C@H](C)C2=CC=CC=C2 | C20H30N2O2
solvent | ethanol | 60 ml | C(C)O | C2H6O
catalyst | palladium on charcoal | 4.5 g | [Pd] | Pd
product | 8-tert-butoxycarbonylamino-6-azaspiro[3.4]octane | 2.88 g | C(C)(C)(C)OC(=O)NC1CNCC12CCC2 | C12H22N2O2
